US04405530
F. 2-Fluoromethyl-2-phthalimido-5-iodo-valeronitrile
A solution of 2-fluoromethyl-2-phthalimido-5-methanesulfonyloxy-valeronitrile (42 g) and sodium iodide (35.7 g) in acetone (600 ml) is stirred and heated under reflux. After about 1/2 hour, the mixture solidifies. Acetone (500 ml) is added, and refluxing and stirring is continued overnight. The salts are removed by filtration and washed several times with acetone. The acetone is evaporated to give a residue which is dissolved in ether (1.5 l). The ether solution is washed subsequently with water (2×), sodium sulfite solution, and water again (3×). After drying (MgSO4) and evaporating the ether, the title compound is obtained as an oil (34.1 g).

reactant | 2-fluoromethyl-2-phthalimido-5-methanesulfonyloxy-valeronitrile | 42 g | FCC(C#N)(CCCOS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O | C15H15FN2O5S
reactant | sodium iodide | 35.7 g | [I-].[Na+]
solvent | acetone | 600 ml | CC(=O)C | C3H6O
solvent | ether | 1.5 l | CCOCC | C4H10O
solvent | Acetone | 500 ml | CC(=O)C | C3H6O
product | 2-Fluoromethyl-2-phthalimido-5-iodo-valeronitrile | FCC(C#N)(CCCI)N1C(C=2C(C1=O)=CC=CC2)=O | C14H12FIN2O2
